US05821245
A mixture of 1-(1-methyl-4-hydroxypiperidin-4-yl)-7-hydroxynaphthalene (7.64 g, 29.7 mmol) and p-toluenesulfonic acid (6.78 g, 35.7 mmol) in dioxane (250 mL) was refluxed overnight. The solvent was removed at reduced pressure and the residue was taken up in methylene chloride. The naphthol product was extracted from this organic phase with 1N sodium hydroxide, 4N sodium hydroxide and then 1N sodium hydroxide. The combined basic aqueous phase was neutralized to pH 8 with saturated aqueous sodium bicarbonate and extracted with warm chloroform (3×, two phase mixture vigorously magnetically stirred while heat was applied by means of a hot plate.) The combined organic phase (still warm) was washed with brine, dried over calcium sulfate and concentrated to afford 5.01 g (83% for this step) of 1-(1-methyl-1,2,3,6-tetrahydropyrid-4-yl)-7-hydroxynaphthalene as a tan solid. A sample recrystallized from ethyl acetate had: mp 182.5°-184° C.; 1H NMR (250 MHz, CDCl3) δ 9.15 (s, 1H), 7.98 (d, J=2.5 Hz, 1H), 7.69 (d, J=9 Hz, 1H), 7.65 (d, J=8 Hz, 1H), 7.25-7.12 (m, 2H), 7.03 (dd, J=2.5, 9 Hz, 1H), 5.70 (sym m, 1H), 3.32 (sym m, 2H), 2.92 (t, J=6 Hz, 2H), 2.70-2.60 (m, 2H), 2.66 (s, 3H). Analysis calculated for C16H17NO·0.25 H2O: C, 78.82; H, 7.23; N, 5.74. Found: C, 78.81; H, 7.21; N, 5.83.

reactant | 1-(1-methyl-4-hydroxypiperidin-4-yl)-7-hydroxynaphthalene | 29.7 mmol, 7.64 g | CN1CCC(CC1)(O)C1=CC=CC2=CC=C(C=C12)O | C16H19NO2
reactant | p-toluenesulfonic acid | 35.7 mmol, 6.78 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | 1-(1-methyl-1,2,3,6-tetrahydropyrid-4-yl)-7-hydroxynaphthalene | CN1CCC(=CC1)C1=CC=CC2=CC=C(C=C12)O | C16H17NO
